US09056873B2
Step B: tert-Butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-(3-ethylisothiazol-5-yl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate
To a stirred solution of tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-7-fluoro-3-oxo-4-(3-vinylisothiazol-5-yl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (58 mg, 0.101 mmol) in MeOH (1.0 mL) was added Pd/C (30 mg, 0.282 mmol) under N2 atmosphere. The mixture was stirred at room temperature overnight under H2 atmosphere. The solids were removed by filtration, and the filtrate was concentrated in vacuo. The residue was purified by silica gel chromatography (Flash 60 column) eluting with hexane/EtOAc (1:1) to give the title compound as a yellow solid (54.9 mg, 94%). 1H NMR (500 MHz, CDCl3) δ ppm 1.36 (t, J=7.57 Hz, 3H), 1.48 (br s, 9H), 1.61 (s, 9H), 1.71-1.82 (m, 1H), 2.20-2.33 (m, 1H), 2.91 (q, J=7.60 Hz, 2H), 3.64 (t, J=11.72 Hz, 1H), 3.74 (d, J=11.72 Hz, 1H), 3.91-3.99 (m, 1H), 4.01-4.10 (m, 2H), 4.23-4.34 (m, 1H), 4.72 (s, 2H), 5.37 (d, J=6.83 Hz, 1H), 6.47 (br s, 1H), 8.78 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C27H36FN5O6S, 578. found, 578.

reactant | tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-7-fluoro-3-oxo-4-(3-vinylisothiazol-5-yl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.101 mmol, 58 mg | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)C1=CC(=NS1)C=C)C(N(C2)C(=O)OC(C)(C)C)=O)F | C27H34FN5O6S
solvent | MeOH | 1.0 mL | CO | CH4O
catalyst | Pd/C | 0.282 mmol, 30 mg | [Pd] | Pd
product | tert-Butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-(3-ethylisothiazol-5-yl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 54.9 mg, 94% | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)C1=CC(=NS1)CC)C(N(C2)C(=O)OC(C)(C)C)=O)F | C27H36FN5O6S
